US07148226B2
1-(4-Iodo-3,5-dimethyl-pyrazol-1-yl)-ethanone
Acetic anhydride (0.51 mL, 5.4 mmol) and triethylamine (0.75 mL, 5.4 mmol) were added to a solution of 3,5-dimethyl-4-iodopyrazole (1 g, 4.5 mmol) in CH2Cl2. After 1 h the reaction mixture was partitioned between 1 N HCl and EtOAc. The organic layer was washed with 1 N HCl, saturated NaHCO3, brine, dried over Na2SO4, and concentrated to give the title compound as a white solid (1 g, 85%).

reactant | Acetic anhydride | 5.4 mmol, 0.51 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 5.4 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethyl-4-iodopyrazole | 4.5 mmol, 1 g | CC1=NNC(=C1I)C | C5H7IN2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-Iodo-3,5-dimethyl-pyrazol-1-yl)-ethanone | 1 g, 85% | IC=1C(=NN(C1C)C(C)=O)C | C7H9IN2O
